US05359098
2-Cyclohexyl-6-(6-morpholinylhexoxy)-4H-1-benzopyran-4-one hydrochloride
The compound was prepared by a method similar to Example 11 from 2',5'-dihydroxyacetophenone, cyclohexanecarbonyl chloride, 1-bromo-6-chlorohexane, and morpholine: mp 167°-168° C.

reactant | 2',5'-dihydroxyacetophenone | OC1=C(C=C(C=C1)O)C(C)=O | C8H8O3
reactant | cyclohexanecarbonyl chloride | C1(CCCCC1)C(=O)Cl | C7H11ClO
reactant | 1-bromo-6-chlorohexane | BrCCCCCCCl | C6H12BrCl
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 2-Cyclohexyl-6-(6-morpholinylhexoxy)-4H-1-benzopyran-4-one hydrochloride | Cl.C1(CCCCC1)C=1OC2=C(C(C1)=O)C=C(C=C2)OCCCCCCN2CCOCC2 | InChI=1S/C25H35NO4.ClH/c27-23-19-25(20-8-4-3-5-9-20)30-24-11-10-21(18-22(23)24)29-15-7-2-1-6-12-26-13-16-28-17-14-26;/h10-11,18-20H,1-9,12-17H2;1H
